US07709469B2
2-(Pyridin-3-yloxy)-benzonitrile
To a solution of 3-hydoxypyridine sodium salt (purchased from Acros) (2.54 g, 26.71 mmol) in N,N-dimethyl formamide (50 mL) was added 2-fluoronicotinonitrile (3.32 g, 26.68 mmol) dropwise and the solution was heated at 100° C. for 2 hours. To the reaction mixture was added ethyl acetate (100 mL) and 1M NaHCO3 (150 mL) and it was filtered to remove black tar. The filtrate was decolorized with activated charcoal and extracted with ethyl acetate (3×30 ml). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude product was purified by flash column chromatography on silica gel using dichloromethane to give the title compound. MS (ESI+) m/z 197 (M+H)+.

reactant | 3-hydoxypyridine sodium salt | 26.71 mmol, 2.54 g | [Na].OC=1C=NC=CC1
reactant | 2-fluoronicotinonitrile | 26.68 mmol, 3.32 g | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | 1M, 150 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(Pyridin-3-yloxy)-benzonitrile | N1=CC(=CC=C1)OC1=C(C#N)C=CC=C1 | C12H8N2O
